US07902181B2
a) (2S)-tert-Butyl 2-((1S)-1-cyano-2-(4′-cyano-3′-(methylsulfinyl)biphenyl-4-yl)ethylcarbamoyl)piperidine-1-carboxylate
3-Chloroperoxybenzoic acid (0.137 g) was added to a solution of (S)-tert-butyl 2-((S)-1-cyano-2-(4′-cyano-3′-(methylthio)biphenyl-4-yl)ethylcarbamoyl)piperidine-1-carboxylate (0.140 g) in DCM (20 mL) at 0° C. and the mixture was stirred for 2 h then allowed to warm to RT. The mixture was washed with saturated sodium bicarbonate solution, sodium metabisulfite solution, water and brine then dried over sodium sulfate and evaporated. Purification by flash silica chromatography eluting with 30-50% ethyl acetate in isohexane afforded a colourless solid (0.08 g).

reactant | 3-Chloroperoxybenzoic acid | 0.137 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (S)-tert-butyl 2-((S)-1-cyano-2-(4′-cyano-3′-(methylthio)biphenyl-4-yl)ethylcarbamoyl)piperidine-1-carboxylate | 0.140 g | C(#N)[C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)C#N)SC)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C28H32N4O3S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S)-tert-Butyl 2-((1S)-1-cyano-2-(4′-cyano-3′-(methylsulfinyl)biphenyl-4-yl)ethylcarbamoyl)piperidine-1-carboxylate | 0.08 g | C(#N)[C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)C#N)S(=O)C)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C28H32N4O4S
